US07189741B2
Preparation of 3-{4-[1-(tetrahydro-furan-3-ylmethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid
This compound was prepared following the procedure described in example 1 (part E) starting with 0.1 g (0.28 mmol) of 3-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester (example 28, part A) and 0.72 g (0.4 mmol) of (tetrahydro-furan-3-yl)-methansulfonate. After standard purification, 0.04 g (34% of yield) of the expected acid were obtained.

reactant | 3-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid methyl ester | 0.28 mmol, 0.1 g | COC(C1=CC(=CC=C1)CN1CCC(CC1)C1=CNC2=CC=CC=C12)=O | C22H24N2O2
reactant | (tetrahydro-furan-3-yl)-methansulfonate | 0.4 mmol, 0.72 g | O1CC(CC1)CS(=O)(=O)[O-]
product | 3-{4-[1-(tetrahydro-furan-3-ylmethyl)-1H-indol-3-yl]-piperidin-1-ylmethyl}-benzoic acid | O1CC(CC1)CN1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1C=C(C(=O)O)C=CC1 | C26H30N2O3
